US05547954
Phosphorus oxychloride, 690 grams (4.5 moles), is warmed to about 30° C., and 478 mL of N,N-dimethylformamide is added dropwise during a two hour period. Upon completion of addition, a solution of 202 grams (1.5 moles) of phenylacetic acid in 158 mL of N,N-dimethylformamide is added dropwise during a one hour period. Upon completion of the addition, the reaction mixture is slowly warmed to about 70°-75° C. where it is stirred for about 16 hours. After this time the reaction mixture is poured into five kilograms of ice. Two kilograms of potassium carbonate are added, and the mixture is stirred until the ice melted. The mixture is separated into two five liter reaction vessels, and 500 mL of toluene is added to each of the vessels. The stirred mixtures are then warmed to about 70° C. where they stirred for about 16 hours. After this time, the mixtures in each vessel are extracted with three 500 mL portions of toluene. The combined extracts are then washed with two one liter portions of water and one one liter portion of an aqueous solution saturated with sodium chloride. The organic layer is dried with potassium carbonate and filtered. The filtrate is concentrated under reduced pressure, yielding 94.9 grams of crude product. The crude product is distilled under vacuum, yielding 78.3 grams of 3-dimethylamino-2-phenylpropenaldehyde, bp 154°-160° C./1 mm Hg. The NMR spectrum is consistent with the proposed structure.

reactant | Phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | phenylacetic acid | 1.5 moles, 202 grams | C1(=CC=CC=C1)CC(=O)O | C8H8O2
reactant | potassium carbonate | Two kilograms | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 158 mL | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide | 478 mL | CN(C=O)C | C3H7NO
product | 3-dimethylamino-2-phenylpropenaldehyde | 78.3 grams | CN(C=C(C=O)C1=CC=CC=C1)C | C11H13NO
